US07718693B2
5-oxo-1-(phenylmethyl)proline (0.100 g, 0.46 mmol, prepared as described below) was dissolved in a mixture of dichloromethane (2.5 ml) and dimethylformamide (0.5 ml) and to this were added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.105 g, 0.55 mmol), 1-hydroxybenzotriazole (0.074 g, 0.55 mmol), and N-ethyl morpholine (0.143 ml, 1.37 mmol). The mixture was stirred for 10 minutes and then {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine (0.115 g, 0.55 mmol) was added and the mixture was stirred for 1 hr. Saturated aqueous sodium hydrogen carbonate (10 ml) was added and the mixture stirred vigorously for 15 minutes. The organic phase was separated with a phase separator and the aqueous phase was washed with further aliquots of dichloromethane (3×10 ml). The organic fractions were combined and dried over magnesium sulphate. The solvent was then evaporated and the residue was purified by mass-directed automated HPLC to give pure N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-5-oxo-1-(phenylmethyl)-D-prolinamide

reactant | 5-oxo-1-(phenylmethyl)proline | 0.46 mmol, 0.100 g | O=C1CC[C@H](N1CC1=CC=CC=C1)C(=O)O | C12H13NO3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.55 mmol, 0.105 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.55 mmol, 0.074 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl morpholine | 1.37 mmol, 0.143 ml | C(C)N1CCOCC1 | C6H13NO
reactant | {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine | 0.55 mmol, 0.115 g | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-5-oxo-1-(phenylmethyl)-D-prolinamide | ClC1=C(C=CC=C1C(F)(F)F)CNC([C@@H]1N(C(CC1)=O)CC1=CC=CC=C1)=O | C20H18ClF3N2O2
